US07605170B2
A solution of concentrated sulphuric acid (6 mL) in distilled water (75 mL) was added to 5-bromo-2-methylaniline (1 g, 5.38 mmol). The resultant suspension was heated to 90° C. and stirred for 4.5 h. The reaction mixture was then cooled using an ice bath and a solution of sodium nitrite (384 mg, 5.57 mmol) in water (5 mL) was added to the reaction mixture at 0° C. The reaction was then allowed to warm to ambient temperature. The reaction mixture was then added to a solution of concentrated sulphuric acid (6 mL) in water (75 mL) which had been preheated to 90° C. The reaction mixture was stirred for 1 h at 90° C. and allowed to cool, on standing, overnight. A precipitate was observed in the reaction mixture. The precipitate was collected by filtration, washed with water, and dried in a vacuum oven to afford 5-bromo-2-methylphenol as a brown solid (510 mg, 2.73 mmol, 51%). M.S. (ESI) (m/z) 185, 187[M−H]−

reactant | sulphuric acid | 6 mL | S(O)(O)(=O)=O | H2O4S
reactant | 5-bromo-2-methylaniline | 5.38 mmol, 1 g | BrC=1C=CC(=C(N)C1)C | C7H8BrN
reactant | sodium nitrite | 5.57 mmol, 384 mg | N(=O)[O-].[Na+]
reactant | sulphuric acid | 6 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 75 mL | O | H2O
solvent | water | 5 mL | O | H2O
solvent | water | 75 mL | O | H2O
product | 5-bromo-2-methylphenol | 2.73 mmol, 510 mg, 51% | BrC=1C=CC(=C(C1)O)C | C7H7BrO
